US07119212B2
Preparation of 6-methyl-4-(S)-phenyl-dihydrocumarin
[Rh(Cod)(MeCN)2]BF4 (0.06 mmoles, 21.4 mg), (S)-(−)-Binap (0.08 mmoles, 52.5 mg) and phenylboronic acid (5.6 mmoles, 685.1 mg) are introduced in succession in a 50 ml round-bottom flask, equipped with magnetic stirrer, condenser and kept under N2 atmosphere. After addition of 5 ml of distilled dioxane the solution is kept under magnetic stirring for 30′, then added with a solution of 6-methyl-coumarin (1.87 mmoles, 300 mg) in dioxane (6 ml) containing Et3N (1.9 mmoles, 189.5 mg) and heated at 70° C. for 45′. After 45′ dioxane is evaporated off under reduced pressure, thereby obtaining a burgundy solid, which is diluted with ethyl acetate and added with 6 ml of a NH4Cl saturated aqueous solution. The organic phase is separated, the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulfate and evaporated under reduced pressure.

reactant | (S)-(−)-Binap | 0.08 mmoles, 52.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | phenylboronic acid | 5.6 mmoles, 685.1 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 6-methyl-coumarin | 1.87 mmoles, 300 mg | CC=1C=C2C=CC(OC2=CC1)=O | C10H8O2
reactant | Et3N | 1.9 mmoles, 189.5 mg | CCN(CC)CC | C6H15N
reactant | NH4Cl | 6 ml | [NH4+].[Cl-]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 6-methyl-4-(S)-phenyl-dihydrocumarin | CC=1C=C2[C@@H](CC(OC2=CC1)=O)C1=CC=CC=C1 | C16H14O2
